US04675335
3- 2-[2-(2-Methoxyethoxy)ethoxy]ethoxy propyltriphenyl phosphonium iodide
To a solution of 1-chloro-3-{2-[2-(2-methoxyethoxy)ethoxy]ethoxy}propane (2.4 g) in dry acetonitrile (30 ml) was added potassium iodide (1.66 g), and triphenylphosphine (2.63 g) and the suspension heated at reflux for 24 hours. The cooled solution was filtered and the filtrate evaporated under reduced pressure to give a colourless oil which on cooling to -20° C. gave a white oily solid.

reactant | 1-chloro-3-{2-[2-(2-methoxyethoxy)ethoxy]ethoxy}propane | 2.4 g | ClCCCOCCOCCOCCOC | C10H21ClO4
reactant | potassium iodide | 1.66 g | [I-].[K+]
reactant | triphenylphosphine | 2.63 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3- 2-[2-(2-Methoxyethoxy)ethoxy]ethoxy propyltriphenyl phosphonium iodide | [I-].COCCOCCOCCOCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H36O4P.HI/c1-29-19-20-31-23-24-32-22-21-30-18-11-25-33(26-12-5-2-6-13-26,27-14-7-3-8-15-27)28-16-9-4-10-17-28;/h2-10,12-17H,11,18-25H2,1H3;1H/q+1;/p-1
